US06998272B2
To a solution of 3.44 g piperazine (39.9 mmol) in 100 mL DCM, a solution of 4.37 g Boc2O (20.0 mmol) in 50 mL DCM was added over a period of three hours. The mixture was allowed to stir 22 hours before the solvent was evaporated. To the residue 100 mL water was added and the insoluble product was removed by filtration. The aqueous solution was extracted with three portions of 100 mL DCM and the combined organic layers were evaporated to afford 3.08 g Boc-piperazine (83%).

reactant | piperazine | 39.9 mmol, 3.44 g | N1CCNCC1 | C4H10N2
reactant | Boc2O | 20.0 mmol, 4.37 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Boc-piperazine | 3.08 g, 83% | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
